US09328103B2
A mixture of 5-(4-{3-[(3-methyl-2-furoyl)amino]phenoxy}pyridin-2-yl)-1H-pyrrole-3-carboxylic acid (70 mg, 0.17 mmol), ethylene glycol (1 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC.HCl, 40 mg, 0.21 mmol) and 4-dimethylaminopyridine (DMAP, 10 mg, 0.08 mmol) in anhydrous DMF (10 ml) was stirred at 70° C. for 3 hours then room temperature for 16 hours. The mixture was poured into 100 ml of water. Saturated NaHCO3 solution was added until pH=9. The precipitates were filtered, washed with water and dried in vacuo to give the crude, which was purified by silica gel chromatography eluting with a gradient of 3˜4% MeOH/CHCl3 to give 2-hydroxyethyl 5-(4-{3-[(3-methyl-2-furoyl)amino]phenoxy}pyridin-2-yl)-1H-pyrrole-3-carboxylate as white solid. Yield: 40 mg, 51%.

reactant | 5-(4-{3-[(3-methyl-2-furoyl)amino]phenoxy}pyridin-2-yl)-1H-pyrrole-3-carboxylic acid | 0.17 mmol, 70 mg | CC1=C(OC=C1)C(=O)NC=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)O)C=CC1 | C22H17N3O5
reactant | ethylene glycol | 1 ml | C(CO)O | C2H6O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.21 mmol, 40 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | 4-dimethylaminopyridine | 0.08 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-hydroxyethyl 5-(4-{3-[(3-methyl-2-furoyl)amino]phenoxy}pyridin-2-yl)-1H-pyrrole-3-carboxylate | CC1=C(OC=C1)C(=O)NC=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)OCCO)C=CC1 | C24H21N3O6
